US07635715B2
Step I: Preparation of 2-(5-Hydroxy-8,8-dimethyl-7-oxo-7,8-dihydroquinoline-6-carboxamido)acetic acid
A solution of tert-butyl 2-(5-hydroxy-8,8-dimethyl-7-oxo-7,8-dihydroquinoline-6-carboxamido)acetate (15 mg) and TFA (1 mL) was stirred at room temperature. After 20 minutes, LCMS showed that the reaction was complete. The reaction was concentrated in vacuo to give a yellow oil. The sample was lyophilized to give a white solid (10 mg, 60%). MS (m/z)=291 (M+H)+. Calculated for C14H14N2O5 290.3.

reactant | tert-butyl 2-(5-hydroxy-8,8-dimethyl-7-oxo-7,8-dihydroquinoline-6-carboxamido)acetate | 15 mg | OC=1C=2C=CC=NC2C(C(C1C(=O)NCC(=O)OC(C)(C)C)=O)(C)C | C18H22N2O5
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(5-Hydroxy-8,8-dimethyl-7-oxo-7,8-dihydroquinoline-6-carboxamido)acetic acid | 10 mg, 60% | OC=1C=2C=CC=NC2C(C(C1C(=O)NCC(=O)O)=O)(C)C | C14H14N2O5
